US06936602B1
In DMF (8 ml) was dissolved 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (0.15 g). To the solution was added, under ice-cooling, thionyl chloride (0.07 ml), and the mixture was stirred at room temperature for 30 minutes. Under reduced pressure, the solvent was evaporated, and the residue was suspended in THF (25 ml). The suspension was added dropwise to a solution of 4-[N-methyl-N-(tetrahydro-2H-pyran-4-yl)aminomethyl]aniline (0.12 g) and triethylamine (0.26 ml) in THF (5 ml), under ice-cooling, and the mixture was stirred under nitrogen atmosphere at room temperature for 4 hours. Under reduced pressure, the solvent was evaporated. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified with silica gel column chromatography (elution solvent: methanol/triethylamine/ethyl acetate) to give crude crystals, which were recrystallized from ethyl acetate/hexane to give 1-methoxycarbonyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxamide (0.14 g) as colorless crystals.

reactant | 1-methoxycarbonyl-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 0.15 g | COC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2CCOCC2)C(=O)O | C23H24N2O5
reactant | thionyl chloride | 0.07 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 1-methoxycarbonyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-7-(4-morpholinophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 0.14 g | COC(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2CCOCC2)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C | C36H42N4O5
